US05374504
To a well-stirred suspension of 7.3 grams (42 mmol) of sodium hydrosulfite (Na2S2O4) in 30 ml DMF was added 5.0 grams (28.3 retool) of 1-chloromethylnaphthalene. The mixture was stirred at room temperature for 12 hours, then brought to 85° C. for 24 hours. The warm mixture was poured onto 400 ml crushed ice, and the total volume brought to 700 ml with water. The precipitated solids were filtered to give 4.91 grams (14.2 mmol, 100% yield) of bis(1-naphthylmethyl) sulfone. Pure material was obtained by recrystallization from toluene (mp 220° C.).

reactant | sodium hydrosulfite | 42 mmol, 7.3 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 1-chloromethylnaphthalene | 5.0 grams | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | bis(1-naphthylmethyl) sulfone | 14.2 mmol, 4.91 grams, 100% yield | C1(=CC=CC2=CC=CC=C12)CS(=O)(=O)CC1=CC=CC2=CC=CC=C12 | C22H18O2S
